US09375000B2
To a mixture of (6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methanol (1.55 g), toluene (10 ml) and THF (5 ml), which had been stirred under ice cooling, diphenylphosphoryl azide (1.59 g) and subsequently 1,8-diazabicyclo[5.4.0]-7-undecene (0.88 g) were added, and then stirred overnight at room temperature. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off and the residue was purified by silica gel chromatography to obtain 3-(azidomethyl)-6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridine (1.35 g).

reactant | (6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridin-3-yl)methanol | 1.55 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)Br)CO)C(F)(F)F)(F)F | C19H14BrF9N2O
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | diphenylphosphoryl azide | 1.59 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.88 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(azidomethyl)-6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-bromopyridine | 1.35 g | N(=[N+]=[N-])CC=1C(=NC(=CC1)N1CC(CC1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)Br | C19H13BrF9N5
